US06291561B1
in a 0.3 l steel autoclave, 10.5 g of 1-chloro-4-morpholino-2-naphthol in 150 ml of sodium hydroxide (2N) and 30 ml of ethanol are maintained under a pressure of 3 bar and at 35° C. in the presence of 3 g of palladium on charcoal (5%) for 7 hours. The solution is then filtered to remove the catalyst. The aqueous phase is then acidified with acetic acid and then filtered. The precipitate is washed with water and then dried. 7.1 g of 4-morpholino-2-naphthol are thus obtained.

reactant | 1-chloro-4-morpholino-2-naphthol | 10.5 g | ClC1=C(C=C(C2=CC=CC=C12)N1CCOCC1)O | C14H14ClNO2
solvent | sodium hydroxide | 2N, 150 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
product | 4-morpholino-2-naphthol | 7.1 g | O1CCN(CC1)C1=CC(=CC2=CC=CC=C12)O | C14H15NO2
